US04968708
Subsequently, 6.0 g of 2-methylimidazo[2,1-b]benzothiazole-3-carboxylic acid was suspended in 100 ml of dry dimethylformamide. Under ice cooling, 1.5 g of 60% sodium hydride was added to the suspension. After stirring for 30 minutes, 6.0 g of ethyl iodide was added to the mixture followed by heating at 40° C. overnight. After completion of the reaction, the solvent was removed under reduced pressure. Ether and water were added to the residue, which was fractionated. The residue obtained from the ether phase was crystallized with n-hexane to give 4.0 g of ethyl 2-methylimidazo[2,1-b]benzothiazole-3-carboxylate.

reactant | 2-methylimidazo[2,1-b]benzothiazole-3-carboxylic acid | 6.0 g | CC=1N=C2SC3=C(N2C1C(=O)O)C=CC=C3 | C11H8N2O2S
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | ethyl iodide | 6.0 g | C(C)I | C2H5I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-methylimidazo[2,1-b]benzothiazole-3-carboxylate | 4.0 g | CC=1N=C2SC3=C(N2C1C(=O)OCC)C=CC=C3 | C13H12N2O2S
